US05273975
Lithium aluminum hydride (1.08 g, 27.7 mmol) was added to a stirred solution of 3-(dipropylamino)-3,4-dihydro-8-methoxy-2(1H)quinolinone (1.05 g, 3.8 mmol) in THF (50 mL) and the solution was heated to 50° C. for 1 hour. After cooling, ethyl acetate followed by methanol were added to destroy excess hydride, and the solvent was evaporated. The residue was partitioned between ethyl acetate and water. Evaporation of the ethyl acetate gave 0.98 g of 1,2,3,4-tetrahydro-8-methoxy-N,N-dipropyl-3-quinolinamine as an oil.

reactant | Lithium aluminum hydride | 27.7 mmol, 1.08 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(dipropylamino)-3,4-dihydro-8-methoxy-2(1H)quinolinone | 3.8 mmol, 1.05 g | C(CC)N(C1C(NC2=C(C=CC=C2C1)OC)=O)CCC | C16H24N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1,2,3,4-tetrahydro-8-methoxy-N,N-dipropyl-3-quinolinamine | 0.98 g | COC=1C=CC=C2CC(CNC12)N(CCC)CCC | C16H26N2O
